US08278473B2
A mixture of 3.68 g (13 mmol) of 2-ethyl-N-phenyl-3-(phenylthio)-2-propenamide, 1.9 ml (26 mmol) of thionyl chloride, 10 mg of DMF, and 20 ml of toluene was refluxed for 1 hour. After concentration of the mixture under vacuum, the residue was dissolved in 35 ml of DMF and then 2.0 g (15.1 mmol) of a benzenethiol sodium salt was added portionwise under ice cooling and stirred at room temperature for 1 hour. After dilution with tert-butyl methyl ether, the mixture was washed sequentially with water (three times) and saturated NaCl solution, dried over anhydrous MgSO4, and concentrated under vacuum. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1) to obtain 2.03 g of phenyl 2-ethyl-N-phenyl-3-(phenylthio)-2-propenimidothioate (hereinafter referred to as the present compound 14).

reactant | 2-ethyl-N-phenyl-3-(phenylthio)-2-propenamide | 13 mmol, 3.68 g | C(C)C(C(=O)NC1=CC=CC=C1)=CSC1=CC=CC=C1 | C17H17NOS
reactant | thionyl chloride | 26 mmol, 1.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | benzenethiol sodium salt | 15.1 mmol, 2.0 g | [Na].C1(=CC=CC=C1)S
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
catalyst | DMF | 10 mg | CN(C)C=O | C3H7NO
product | phenyl 2-ethyl-N-phenyl-3-(phenylthio)-2-propenimidothioate | 2.03 g | C(C)C(C(=NC1=CC=CC=C1)SC1=CC=CC=C1)=CSC1=CC=CC=C1 | C23H21NS2
